US07084160B2
A mixture of (4-methylpyridin-2-yl)-thiourea (334 mg, 2 mmol), 2-bromomalonaldehyde (302 mg, 2 mmol) and sodium acetate (250 mg, 3.0 mmol) in acetic acid (5 mL) was stirred at 100° C. for 3 h. The mixture was cooled to RT and diluted with water and the precipitate formed was collected, washed with water and dried to afford 2-(4-methylpyridin-2-ylamino)-thiazole-5-carbaldehyde (350 mg, 80%). MS m/z 220 (M+H)+.

reactant | (4-methylpyridin-2-yl)-thiourea | 2 mmol, 334 mg | CC1=CC(=NC=C1)NC(=S)N | C7H9N3S
reactant | 2-bromomalonaldehyde | 2 mmol, 302 mg | BrC(C=O)C=O | C3H3BrO2
reactant | sodium acetate | 3.0 mmol, 250 mg | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(4-methylpyridin-2-ylamino)-thiazole-5-carbaldehyde | 350 mg, 80% | CC1=CC(=NC=C1)NC=1SC(=CN1)C=O | C10H9N3OS
